US05026856
7-(4-bromo-2-isoindolinyl)-1-(4-fluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
170 mg of 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid, 300 mg of 4-bromoisoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 162 mg of the target compound.

reactant | 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 170 mg | FC1=CC=C(C=C1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H7F4NO3
reactant | 4-bromoisoindoline | 300 mg | BrC1=C2CNCC2=CC=C1 | C8H8BrN
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-bromo-2-isoindolinyl)-1-(4-fluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 162 mg | BrC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1=CC=C(C=C1)F)C(=O)O)=O)F | C24H14BrF3N2O3
